US08217029B2
172.i) (S)-1-(6-Methoxy-quinolin-4-yl)-pyrrolidin-3-ylamine
Starting from (S)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (commercial) and 4-bromo-6-methoxy-quinoline (commercial) the title compound was prepared according to procedure F followed by procedure E and was isolated as a brown oil (801 mg, 78% over two steps).

reactant | (S)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CNCC1)=O | C9H18N2O2
reactant | 4-bromo-6-methoxy-quinoline | BrC1=CC=NC2=CC=C(C=C12)OC | C10H8BrNO
product | (S)-1-(6-Methoxy-quinolin-4-yl)-pyrrolidin-3-ylamine | COC=1C=C2C(=CC=NC2=CC1)N1C[C@H](CC1)N | C14H17N3O
